US07419984B2
6-(5-Chloro-2-methoxy-phenyl)-N*4*-p-tolyl-pyrimidine-2,4-diamine
To a mixture of 6-chloro-N*4*-p-tolyl-pyrimidine-2,4-diamine (2.8 g, 11.9 mmol), 5-chloro-2-methoxy-phenyl boronic acid (3.96 g, 21.5 mmol), palladium (II) acetate (0.2 g, 0.9 mmol) and triphenylphosphine (0.47 g, 1.8 mmol) was added a solution of sodium carbonate (6.36 g, 60 mmol) in water (20 ml) followed by glyme (100 ml). The mixture was stirred under an argon atmosphere at 90-95° C. for 18 hours. Filtration and concentration of the filtrate yielded a residue which was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:3) to provide the title compound (3.48 g, 86% yield) as a white powder. 1H NMR (DMSO-d6) δ 2.27 (s, 3H, CH3), 3.88 (s, 3H, CH3), 6.27 (s, 2H, NH2), 6.72 (s, 1H, Ar), 7.10 (d, 2H, J=8.3 Hz, Ar), 7.16 (d, 1H, J=8.9 Hz, Ar), 7.44 (dd, 1H, J=8.9 Hz, J=2.8 Hz, Ar), 7.63 (d, 2H, J-8.3 Hz, Ar), 7.92 (d, 1H, J=2.8 Hz, Ar), 9.10 (s, 1H, NH).

reactant | 6-chloro-N*4*-p-tolyl-pyrimidine-2,4-diamine | 11.9 mmol, 2.8 g | ClC1=CC(=NC(=N1)N)NC1=CC=C(C=C1)C | C11H11ClN4
reactant | 5-chloro-2-methoxy-phenyl boronic acid | 21.5 mmol, 3.96 g | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | triphenylphosphine | 1.8 mmol, 0.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 60 mmol, 6.36 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 ml | O | H2O
catalyst | palladium (II) acetate | 0.9 mmol, 0.2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | glyme | 100 ml | C(OC)COC | C4H10O2
product | 6-(5-Chloro-2-methoxy-phenyl)-N*4*-p-tolyl-pyrimidine-2,4-diamine | 3.48 g, 86% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)C)OC | C18H17ClN4O
